US06951879B2
5.0 g (16.33 mmol) 3-(4-bromo-phenyl)-benzo[d]isothiazol-6-ol in 8 ml pyridine were treated with 3 ml (17.96 mmol) trifluoromethane sulfonic anhydride at 0° C. The solution was stirred for 1.5 h at RT. The solution was diluted with ether and water, the phases were separated and the inorganic phase was extracted with ether. The combined organic phases were washed with 2M HCl and brine and dried over Na2SO4. Evaporation yielded 7.21 crude Trifluoro-methanesulfonic acid 3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl ester as yellow oil, MS: 437 (M, 1Br).

reactant | 3-(4-bromo-phenyl)-benzo[d]isothiazol-6-ol | 16.33 mmol, 5.0 g | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)O | C13H8BrNOS
reactant | trifluoromethane sulfonic anhydride | 17.96 mmol, 3 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | Trifluoro-methanesulfonic acid 3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl ester | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F | C14H7BrF3NO3S2
